US07820837B2
methyl {6-[3-(2-phenyl-1H-indol-1-yl)propoxy]-2,3-dihydro-1-benzofuran-3-yl}acetate
To a solution of 2-phenyl-1H-indole (0.425 g, 2.20 mmol) in N,N-dimethylformamide (2 mL) was added sodium hydride (60% in oil, 88 mg, 2.20 mmol), and the mixture was stirred at room temperature for 30 min. A solution of sodium iodide (0.330 g, 2.20 mmol) and methyl [6-(3-chloropropoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate (0.589 g, 2.07 mmol) in N,N-dimethylformamide (3 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 18 hr. Water and saturated aqueous ammonium chloride solution were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10%-40% ethyl acetate/hexane) to give the title compound (0.160 g, yield 18%) as a colorless oil.

reactant | 2-phenyl-1H-indole | 2.20 mmol, 0.425 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
reactant | sodium hydride | 2.20 mmol, 88 mg | [H-].[Na+]
reactant | sodium iodide | 2.20 mmol, 0.330 g | [I-].[Na+]
reactant | methyl [6-(3-chloropropoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate | 2.07 mmol, 0.589 g | ClCCCOC1=CC2=C(C(CO2)CC(=O)OC)C=C1 | C14H17ClO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | methyl {6-[3-(2-phenyl-1H-indol-1-yl)propoxy]-2,3-dihydro-1-benzofuran-3-yl}acetate | 0.160 g, yield 18% | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)CCCOC1=CC2=C(C(CO2)CC(=O)OC)C=C1 | C28H27NO4
